US04302239
a. Formation of 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methylurea
A 50 milliliter flask with a magnetic stirring bar, addition funnel, thermometer and condenser/drying tube was charged with 3.0 grams (0.021 mole) of 5-(1,1-dimethylethyl)-3-isoxazolamine, a few crystals of 4-dimethylaminopyridine and 20 milliliters of benzene. The funnel was charged with 2.3 grams (0.040 mole) of methyl isocyanate in 5 milliliters of benzene, which was added dropwise over five (5) minutes. After standing overnight, the mass of crystals which formed was isolated by filtration, washed with hexane, and air dried to give 3.0 grams of white powder of 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methylurea, M.P. 188°-189° C.

reactant | 5-(1,1-dimethylethyl)-3-isoxazolamine | 0.021 mole, 3.0 grams | CC(C)(C)C1=CC(=NO1)N | C7H12N2O
reactant | methyl isocyanate | 0.040 mole, 2.3 grams | CN=C=O | C2H3NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | benzene | 5 milliliters | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 milliliters | C1=CC=CC=C1 | C6H6
product | 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methylurea | 3.0 grams | CC(C)(C)C1=CC(=NO1)NC(=O)NC | C9H15N3O2
